US07612104B2
1g) 2-Amino-indan-5-sulfonic acid (5-isopropyl-[1,3,4]thiadiazol-2-yl)-amide hydrochloride
N-[5-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-indan-2-yl]-acetamide (96 mg) was heated and stirred for 27 hours in 10 ml 2N hydrochloric acid at 100° C. After completion a clear solution occurred. This was evaporated to dryness and the solid residue was used without further purification.

reactant | N-[5-(5-Isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-indan-2-yl]-acetamide | 96 mg | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C=1C=C2CC(CC2=CC1)NC(C)=O | C16H20N4O3S2
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
product | 2-Amino-indan-5-sulfonic acid (5-isopropyl-[1,3,4]thiadiazol-2-yl)-amide hydrochloride | Cl.C(C)(C)C1=NN=C(S1)NS(=O)(=O)C=1C=C2CC(CC2=CC1)N | InChI=1S/C14H18N4O2S2.ClH/c1-8(2)13-16-17-14(21-13)18-22(19,20)12-4-3-9-5-11(15)6-10(9)7-12;/h3-4,7-8,11H,5-6,15H2,1-2H3,(H,17,18);1H
